US07666868B2
C2. (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid
A mixture of 6.69 g (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid tert-butyl ester in 180 ml dichloromethane and 18.1 ml TFA is stirred at ambient temperature over the weekend. The reaction mixture is evaporated and the crude product is washed with toluene and dried in vacuo.

reactant | (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid tert-butyl ester | 6.69 g | C(C)(C)(C)OC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)I)=O | C17H18INO4S
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | TFA | 18.1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid | IC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)O | C13H10INO4S
